US04173705
A process for preparing 2-(2-furoyl)-1,4-dimethylpyridinium iodide comprising the steps of reacting 2-cyano-4-methylpyridine under a nitrogen atmosphere with an ethereal solution of freshly prepared 2-furyl-lithium, hydrolyzing the reaction mixture under acid conditions to form 2-(2-furoyl)-4-methylpyridine, and heating the 2-(2-furoyl)-4--methylpyridine in the presence of methyl iodide to form 2-(2-furoyl)-1,4-dimethylpyridinium iodide.

reactant | 2-(2-furoyl)-4--methylpyridine | O1C(=CC=C1)C(=O)C1=NC=CC(=C1)C | C11H9NO2
reactant | methyl iodide | CI | CH3I
product | 2-(2-furoyl)-1,4-dimethylpyridinium iodide | [I-].O1C(=CC=C1)C(=O)C1=[N+](C=CC(=C1)C)C | InChI=1S/C12H12NO2.HI/c1-9-5-6-13(2)10(8-9)12(14)11-4-3-7-15-11;/h3-8H,1-2H3;1H/q+1;/p-1
